US04178449
4-(α,α,α-Trifluoro-m-tolyl)-8-chloroimidazo[1,5-a]pyrimidine
A mixture of 0.01 mole of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 40 ml. of glacial acetic acid and 0.01 mole of 4-amino-5-chloroimidazole is refluxed for 6 hours. The solvent is removed under reduced pressure and the residue worked up as for Example 29 to give the product of the example.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | 0.01 mole | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 4-amino-5-chloroimidazole | 0.01 mole | NC=1N=CNC1Cl | C3H4ClN3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(α,α,α-Trifluoro-m-tolyl)-8-chloroimidazo[1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2Cl)(F)F | C13H7ClF3N3
